US05856309
To a solution of 5.43 g (22.5 mmol) 2,5-dihydro-pyrrole-1,3-dicarboxylic acid 1-tert.-butylester 3-ethyl ester in 50 ml THF, cooled to -78° C. was dropwise added 50 ml of a 1N DIBAL-H solution in hexane. The mixture was allowed to warm to room temperature overnight. As TLC analysis indicated complete consumption of starting material, the mixture was cooled in an ice bath and 1.90 g water were cautiously added, followed by 1.90 g 15% aqueous NaOH and 5.70 g water. The white precipitate was filtered off, washed thoroughly with ether and the combined filtrates were evaporated. Bulb-to-bulb distillation of the residual pale yellow oil gave 4.13 g (93%) 3-hydroxymethyl-2,5-dihydro-pyrrole-1-carboxylic acid tert.-butylester as a colorless oil, b.p. 130° C. (0.2 mbar).

reactant | 2,5-dihydro-pyrrole-1,3-dicarboxylic acid 1-tert.-butylester 3-ethyl ester | 22.5 mmol, 5.43 g | C(C)OC(=O)C=1CN(CC1)C(=O)OC(C)(C)C | C12H19NO4
reactant | DIBAL-H | 1N | CC(C)C[AlH]CC(C)C
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-hydroxymethyl-2,5-dihydro-pyrrole-1-carboxylic acid tert.-butylester | 4.13 g, 93% | C(C)(C)(C)OC(=O)N1CC(=CC1)CO | C10H17NO3
